US06506936B1
A suspension of methyl 3-[(4-methoxyphenethyl)-(4-cyanobenzenesulfonyl)-amino]-propionate (220 mg, 0.55 mmol), sodium azide (43 mg, 0.66 mmol), and triethylamine hydrochloride (91 mg, 0.66 mmol) in anhydrous ethylene glycol dimethyl ether (3 mL) was fluxed for 48 h. Reaction mixture was concentrated, resuspended in water (10 mL) and extracted with ethyl acetate (2×20 mL). The organic layer was washed with 0.5 N HCl solution and brine, dried over MgSO4. After filtration, the filtrate was concentrated to give methyl 3-[(4-methoxyphenethyl)-(4-(tetrazol-5yl)benzenesulfonyl)-amino]-propionate (112 mg, 0.25 mmol).

reactant | methyl 3-[(4-methoxyphenethyl)-(4-cyanobenzenesulfonyl)-amino]-propionate | 0.55 mmol, 220 mg | COC1=CC=C(CCN(CCC(=O)OC)S(=O)(=O)C2=CC=C(C=C2)C#N)C=C1 | C20H22N2O5S
reactant | sodium azide | 0.66 mmol, 43 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.66 mmol, 91 mg | Cl.C(C)N(CC)CC
solvent | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
product | methyl 3-[(4-methoxyphenethyl)-(4-(tetrazol-5yl)benzenesulfonyl)-amino]-propionate | 0.25 mmol, 112 mg | COC1=CC=C(CCN(CCC(=O)OC)S(=O)(=O)C2=CC=C(C=C2)C2=NN=NN2)C=C1 | C20H23N5O5S
